US06048864
(f) Methyl 6-amino-2-cyclobutyloxy-3,4-dimethoxybenzoate
A solution of sodium dithionite (3 g, 0.017 mol) in water (6 ml) was added to a solution of methyl 2-cyclobutyloxy-3,4-dimethoxy-6-nitrobenzoate (511 mg, 0.00164 mol) and tetra-n-butylammonium chloride (280 mg, 0.001 mol) in dichloromethane (15 ml) and the reaction stirred vigorously for 1 hour at room temperature. The mixture was basified with 2N aqueous sodium hydroxide solution (10 ml) and extracted with dichloromethane (3×20 ml). The combined organic extracts were washed with water (30 ml), dried (MgSO4), filtered and evaporated under reduced pressure. The residue was dissolved in a minimum volume of dichloromethane and an excess of ethereal hydrogen chloride added. The resulting precipitate was filtered and partitioned between saturated aqueous sodium bicarbonate solution and dichloromethane. The organic layer was evaporated under reduced pressure to give the subtitle compound (500 mg). Rf 0.70 (diethyl ether). 1H-NMR (CDCl3): δ=1.46 (1H, m), 1.70 (1H, m), 2.28 (4H, m), 3.72 (3H, s), 3.83 (3H, s), 3.90 (3H, s), 4.52 (1H, m), 5.20 (2H, bs), 5.82 (1H, s).

reactant | sodium dithionite | 0.017 mol, 3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | methyl 2-cyclobutyloxy-3,4-dimethoxy-6-nitrobenzoate | 0.00164 mol, 511 mg | C1(CCC1)OC1=C(C(=O)OC)C(=CC(=C1OC)OC)[N+](=O)[O-] | C14H17NO7
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
catalyst | tetra-n-butylammonium chloride | 0.001 mol, 280 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Methyl 6-amino-2-cyclobutyloxy-3,4-dimethoxybenzoate | 500 mg | NC1=CC(=C(C(=C1C(=O)OC)OC1CCC1)OC)OC | C14H19NO5
